US07678787B2
Step A. 10-(4-Iodo-3-methylbenzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a solution of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (9.38 g, 0.0509 mol) and N,N-diisopropylethylamine (13.31 mL, 0.0764 mol) in dry dichloromethane (250 mL) at 0° C. under nitrogen was added dropwise a solution of 4-iodo-3-methyl-benzoyl chloride (10.71 g, 0.0382 mol) in dry dichloromethane (30 mL) over ca. 10 minutes. The reaction mixture was allowed to warm slowly to room temperature with stirring over 3 hours then quenched by the addition of water (100 mL). The organic phase was separated, washed with 1 M hydrochloric acid (2×200 mL) and 5% wt/v aqueous sodium carbonate solution (200 mL), dried over anhydrous magnesium sulfate, and concentrated in vacuo to afford a cream solid. Diethyl ether (150 mL) was added and the resulting suspension stirred vigorously for 3 hours then filtered to afford the title compound (14.73 g, 90%) as a white solid, m.p. 152-153° C.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.0509 mol, 9.38 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | N,N-diisopropylethylamine | 0.0764 mol, 13.31 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-iodo-3-methyl-benzoyl chloride | 0.0382 mol, 10.71 g | IC1=C(C=C(C(=O)Cl)C=C1)C | C8H6ClIO
reactant | Diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 10-(4-Iodo-3-methylbenzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 14.73 g, 90% | IC1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)C | C20H17IN2O
